US04665065
7β-Formamido-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid
In 60 ml of formic acid is dissolved 3.2 g of 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid and the solution is cooled to 0°-5° C. With stirring, 20 ml of acetic anhydride is added dropwise to the solution during 30 minutes. The mixture is stirred at the same temperature for 30 minutes and then at room temperature for 1 hour. The solvent is evaporated off under reduced pressure and the residue is dissolved in methyl ethyl ketone. The solution is washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is then evaporated off under reduced pressure and a diisopropylether-hexane mixture is added to the residue to bring about solidification. The solid is then collected by filtration to give 3.1 g of the above-identified compound as a light-yellow powder.

reactant | 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 3.2 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C12H14N2O6S
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 60 ml | C(=O)O | CH2O2
product | 7β-Formamido-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 3.1 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C13H14N2O7S
